US07125896B2
c) 2-[(Aminocarbonyl)amino]-5-[2-(piperazin-1-yl)phenyl]thiophene-3-carboxamide
2-[(Aminocarbonyl)amino]-5-[2-(4-t-butyloxycarbonylpiperazin-1-yl)phenyl]thiophene-3-carboxamide (64 mg) was stirred in dichloromethane (4 ml). Trifluoroacetic acid (1 ml) was added and the solution was stirred at room temperature for 1 h. The volatile materials were removed in vacuo; the residue was diluted with water (2 ml) and basified with a few drops of aqueous ammonia. The precipitated product was collected by filtration and washed with water. The gummy solid obtained was dissolved in methanol, the solvent was evaporated and the residue triturated with a mixture of methanol and ether and then filtered to give the product as an off-white solid (20 mg).

reactant | 2-[(Aminocarbonyl)amino]-5-[2-(4-t-butyloxycarbonylpiperazin-1-yl)phenyl]thiophene-3-carboxamide | 64 mg | NC(=O)NC=1SC(=CC1C(=O)N)C1=C(C=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C21H27N5O4S
reactant | Trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-[(Aminocarbonyl)amino]-5-[2-(piperazin-1-yl)phenyl]thiophene-3-carboxamide | 20 mg | NC(=O)NC=1SC(=CC1C(=O)N)C1=C(C=CC=C1)N1CCNCC1 | C16H19N5O2S
